US07705155B2
Synthesis of 2-chloro-N-isopropyl-isonicotinamide
To a stirred suspension of 20.00 g 2-chloroisonicotinic acid (123.2 mmol) in 200 mL acetonitrile were added 11.77 mL thionyl chloride (160.2 mmol, 1.3 eq) and 762 μL DMF (9.86 mmol, 0.08 eq). The mixture was heated to reflux and was monitored by HPLC. After 60 min (<1% of 2-chloroisonicotinic acid), the reaction mixture was cooled to room temperature and all volatiles were removed in a rotary evaporator (40° C./10 mbar). The residual oil was dissolved in 200 mL dichloromethane and the solution was cooled to 0° C. 20.6 mL triethylamine (147.8 mmol, 1.20 eq) and 11.7 mL isopropylamine (135.5 mmol, 1.10 eq) were subsequently added and stirring was continued for 2 h at 0° C. until the solution turned almost black. The mixture was poured on 200 mL water and phases were separated. The organic phase was washed with 200 mL brine, dried over 15 g sodium sulfate and filtered. The filter cake was washed with 30 mL dichloromethane. After removal of solvent in a rotary evaporator (40° C., 20 mbar), the crude product (24.83 g, 102% w/w) was obtained as a brown solid (HPLC purity 98.6% area).

reactant | 2-chloroisonicotinic acid | 123.2 mmol, 20.00 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | thionyl chloride | 160.2 mmol, 11.77 mL, 1.3 eq | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 147.8 mmol, 20.6 mL, 1.20 eq | C(C)N(CC)CC | C6H15N
reactant | isopropylamine | 135.5 mmol, 11.7 mL, 1.10 eq | C(C)(C)N | C3H9N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
catalyst | DMF | 9.86 mmol, 762 μL, 0.08 eq | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 2-chloro-N-isopropyl-isonicotinamide | 24.83 g | ClC=1C=C(C(=O)NC(C)C)C=CN1 | C9H11ClN2O
